US04973599
2-[(4-Nitrophenyl)thio]-1H-imidazole
To a mixture of 6.2 g (0.12 mmoles) of sodium methoxide and 90 ml of ethyl alcohol was added 5.8 g (0 058 mmoles) of 2-mercaptoimidazole. After stirring for 0.5 hour, 8.2 g (0.058 mole) of 1-fluoro-4-nitrobenzene was added and the mixture refluxed for 4 hours. The mixture was allowed to cool and filtered to give 5.0 g (39%) of the product. An additional 2.0 g (16%) of product was recovered from the filtrates. Recrystallization from dichloromethane/methanol gave the product as yellow rods. mp 207°-209° C.

reactant | sodium methoxide | 0.12 mmoles, 6.2 g | C[O-].[Na+]
reactant | 2-mercaptoimidazole | 5.8 g | SC=1NC=CN1 | C3H4N2S
reactant | 1-fluoro-4-nitrobenzene | 0.058 mole, 8.2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | ethyl alcohol | 90 ml | C(C)O | C2H6O
product | 2-[(4-Nitrophenyl)thio]-1H-imidazole | 5.0 g, 39% | [N+](=O)([O-])C1=CC=C(C=C1)SC=1NC=CN1 | C9H7N3O2S
